US05281715
2-(1,3-Dioxolanyl)-5-aminopyridine was prepared from 2-(1,3-dioxolanyl)-5-nitropyridine by the procedure employed in Example V. Yield: 2.6 g (93%); mp 81°-82° C.; TLC Rf 0.18 (EtOAc); 1H NMR (90 MHz, CDCl3) δ 3.85 (br s, 2H, 5-NH2, D2O exchangeable), 4.05 (m, 4H, CH2CH2), 5.72 (s, 1H, 2-CH), 6.95 (dd, 1H, 4-H, J3,4 =8 Hz, J4,6 =2 Hz), 7.30 (d, 1H, 3-H, J3,4 =8 Hz) 8.08 (d, 1H, 6-H, J4,6 =2 Hz). Anal. (C8H10N2O2) C, H, N.

reactant | 2-(1,3-dioxolanyl)-5-nitropyridine | O1C(OCC1)C1=NC=C(C=C1)[N+](=O)[O-] | C8H8N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1,3-Dioxolanyl)-5-aminopyridine | O1C(OCC1)C1=NC=C(C=C1)N | C8H10N2O2
